*==========================================================================
* Copyright 2026 IHP PDK Authors
*
* Licensed under the Apache License, Version 2.0 (the "License");
* you may not use this file except in compliance with the License.
* You may obtain a copy of the License at
*
*    https://www.apache.org/licenses/LICENSE-2.0
*
* Unless required by applicable law or agreed to in writing, software
* distributed under the License is distributed on an "AS IS" BASIS,
* WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
* See the License for the specific language governing permissions and
* limitations under the License.
* SPDX-License-Identifier: Apache-2.0
*==========================================================================
* cmomi_all_dropped.gds: a cell whose every cap_cmomi is dropped.
*
* Same merged-marker construction as cmomi_merged, with nothing else in the
* cell, so every device in it is skipped.
*
* Expected to end in an extraction ERROR. Before the extractor reported the
* skipped marker through error(), this was the worst case in the suite: the
* circuit was left with no devices, dropped out of the layout netlist, and the
* comparison then reported a match against ANY schematic, a netlist of twelve
* caps included. The extraction error is what closes that.
.SUBCKT cmomi_all_dropped
C1 P1 M1 cap_cmomi w=5e-06 l=5e-06 mmin=1 mmax=4 feed=double
C2 P2 M2 cap_cmomi w=5e-06 l=5e-06 mmin=1 mmax=4 feed=double
.ENDS cmomi_all_dropped
