*==========================================================================
* Copyright 2026 IHP PDK Authors
*
* Licensed under the Apache License, Version 2.0 (the "License");
* you may not use this file except in compliance with the License.
* You may obtain a copy of the License at
*
*    https://www.apache.org/licenses/LICENSE-2.0
*
* Unless required by applicable law or agreed to in writing, software
* distributed under the License is distributed on an "AS IS" BASIS,
* WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
* See the License for the specific language governing permissions and
* limitations under the License.
* SPDX-License-Identifier: Apache-2.0
*==========================================================================
* cap_cmomi configuration matrix.
*
* One instance per PCell configuration, each on its own net pair, so the
* testcase asserts that every configuration is recognised and extracted
* exactly once. The C-lines mirror CONFIG_MATRIX in
* create_cap_cmomi_testcases.py, which generates the layout.
*
* The mmin/mmax/feed/subblock tokens are here to exercise the SPICE reader, not
* the comparison: custom_reader.lvs has to carry a cap_cmomi C-line through its
* cap-line normalisation with those extra named parameters present, including
* the string token feed=double, and then drop them. None of them is a device
* parameter, so nothing here is compared. See the cap_cmomi note in
* testing/README.md.
*
* The set of tokens is deliberately wider than what the xschem symbol emits: its
* lvs_format is "C@name @pinlist @model w=@w l=@l m=@m". C1 carries that m token
* so the symbol's own form is covered too. Note that m does not end up being
* compared either, even though DeviceCustomMIM declares it is_primary=true; see
* case 11 of the cap_cmomi checks suite, which records that.
.SUBCKT cap_cmomi_config
* feed=double across the metal bands. C1 also carries the m token the xschem
* symbol emits; the rest carry the wider form the reader has to accept.
C1 P1 M1 cap_cmomi w=5e-06 l=5e-06 mmin=1 mmax=4 feed=double m=1
C2 P2 M2 cap_cmomi w=5e-06 l=5e-06 mmin=1 mmax=2 feed=double
C3 P3 M3 cap_cmomi w=5e-06 l=5e-06 mmin=3 mmax=4 feed=double
* feed=same, including a band that does not start at Metal1
C4 P4 M4 cap_cmomi w=5e-06 l=5e-06 mmin=1 mmax=4 feed=same
C5 P5 M5 cap_cmomi w=5e-06 l=5e-06 mmin=2 mmax=4 feed=same
* PWell.block variant
C6 P6 M6 cap_cmomi w=5e-06 l=5e-06 mmin=1 mmax=4 feed=double subblock=1
* non-square geometry, exercises the extractor's l->X / w->Y mapping
C7 P7 M7 cap_cmomi w=10e-06 l=20e-06 mmin=1 mmax=4 feed=double
.ENDS cap_cmomi_config
